US07012075B2
A solution composed of methyl N-(4-bromoisothiazol-5-yl)leucinate (98 mg, 0.32 mmol) in methanol (1.5 mL) at 0° C. was treated with a 2.0 M solution of lithium hydroxide (1.0 mL, 2.0 mmol). The mixture was stirred rapidly at rt for 6 h and then recooled to 0° C. prior to acidification to pH 5.5with 2.0 M hydrochloric acid in water. The reaction vessel contents were poured into water, extracted with ethyl acetate (3×) and the combined organics were washed with saturated sodium chloride solution and dried (Na2SO4). Concentration in vacuo gave 92 mg of N-(4-bromoisothiazol-5-yl)leucine as a yellow powder.

reactant | methyl N-(4-bromoisothiazol-5-yl)leucinate | 0.32 mmol, 98 mg | BrC=1C=NSC1N[C@@H](CC(C)C)C(=O)OC | C10H15BrN2O2S
reactant | lithium hydroxide | 2.0 mmol, 1.0 mL | [OH-].[Li+]
reactant | hydrochloric acid | 2.0 M | Cl | ClH
solvent | methanol | 1.5 mL | CO | CH4O
solvent | water | O | H2O
product | N-(4-bromoisothiazol-5-yl)leucine | 92 mg | BrC=1C=NSC1N[C@@H](CC(C)C)C(=O)O | C9H13BrN2O2S
